US06432976B1
(±)-8-Benzyl-3-benzylidene-8-aza-bicyclo[3.2.1]octan-2-one
A 5N sodium hydroxide solution (1.62 mL, 0.5 equiv.) was added to (±)-8-benzyl-8-aza-bicyclo[3.2.1]octan-2-one (3.49 g, 16.2 mmol), followed by a solution of benzaldehyde (2.59 mL, 2.69 g, 16.2 mmol) in ethanol (160 mL). The solution was stirred at ambient temperature for 4.5 h. The solution was concentrated under reduced pressure, and the residue was taken up in dichloromethane (160 mL). The mixture was washed with water (160 mL) and brine (160 mL), dried (sodium sulfate), filtered, and the solvent evaporated under reduced pressure to give crude product (4.96 g, theoretical yield 4.92 g) as an orange oil.

reactant | sodium hydroxide | 5N, 1.62 mL, 0.5 equiv. | [OH-].[Na+]
reactant | (±)-8-benzyl-8-aza-bicyclo[3.2.1]octan-2-one | 16.2 mmol, 3.49 g | C(C1=CC=CC=C1)N1C2C(CCC1CC2)=O | C14H17NO
reactant | benzaldehyde | 16.2 mmol, 2.59 mL, 2.69 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | (±)-8-Benzyl-3-benzylidene-8-aza-bicyclo[3.2.1]octan-2-one | 4.96 g | C(C1=CC=CC=C1)N1C2C(C(CC1CC2)=CC2=CC=CC=C2)=O | C21H21NO
